US08383644B2
6-Chloro-2-methyl-3-nitro-pyridine (0.5 g) was treated with isopropyl amine according to General Procedure U to give isopropyl-(6-methyl-5-nitro-pyridin-2-yl)-amine LCMS (m/z): 196. This was reduced under hydrogen atmosphere according to General Procedure Z to give N*2*-Isopropyl-6-methyl-pyridine-2,5-diamine (0.35 g), LCMS (m/z): 166. This was converted to 6-isopropylamino-2-methyl-pyridine-3-sulfonyl chloride according to General Procedure AA.

reactant | 6-Chloro-2-methyl-3-nitro-pyridine | 0.5 g | ClC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | isopropyl-(6-methyl-5-nitro-pyridin-2-yl)-amine | C(C)(C)NC1=NC(=C(C=C1)[N+](=O)[O-])C | C9H13N3O2
